US08791091B2
Intermediate 107A. (Z)—N-(1-(4-Butoxyphenyl)ethylidene)-2-methylpropane-2-sulfinamide
To a stirred solution of 1-(4-butoxyphenyl)ethanone (3 g, 15.60 mmol) and 2-methylpropane-2-sulfinamide (2.84 g, 23.41 mmol) in THF (50 mL) was added tetraethoxytitanium (8.90 g, 39.0 mmol). The reaction was heated to 70° C. for 3 d. Cold water was added and the reaction was stirred vigorously for 20 min. The mixture was filtered through Celite® and the filtrated was diluted with EtOAc. The organic solution was washed with H2O, brine, dried over MgSO4, filtered and concentrated. The crude product was by silica gel chromatography (220 g silica gel, eluted with EtOAc in hexanes) to yield the desired product (4 g, 87%) as a yellow oil. 1H NMR (500 MHz, CDCl3) δ 7.88 (d, J=8.80 Hz, 2H), 6.91 (d, J=8.80 Hz, 2H), 4.02 (t, J=6.46 Hz, 2H), 2.73 (s, 3H), 1.75-1.83 (m, 2H), 1.46-1.56 (m, 2H), 1.32 (s, 9H), 0.99 (t, J=7.43 Hz, 3H).

reactant | 1-(4-butoxyphenyl)ethanone | 15.60 mmol, 3 g | C(CCC)OC1=CC=C(C=C1)C(C)=O | C12H16O2
reactant | 2-methylpropane-2-sulfinamide | 23.41 mmol, 2.84 g | CC(C)(C)S(=O)N | C4H11NOS
reactant | water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | tetraethoxytitanium | 39.0 mmol, 8.90 g | C(C)O[Ti](OCC)(OCC)OCC
product | (Z)—N-(1-(4-Butoxyphenyl)ethylidene)-2-methylpropane-2-sulfinamide | 4 g, 87% | C(CCC)OC1=CC=C(C=C1)\C(\C)=N/S(=O)C(C)(C)C | C16H25NO2S
